US05869492
A solution of m-chloroperoxybenzoic acid (55% purity; 15.2 g) in chloroform (300 ml) was added dropwise over 2.5 hours to a stirred, ice-cold solution of 1-(4-methoxyphenylthio)-4-phenoxybut-2-yne(13.7 g) in chloroform (125 ml), then the mixture was stirred at ambient temperature for 18 hours and filtered. The filtrate was washed with 5% sodium carbonate solution (3×150 ml) and water (3×100 ml), then dried (MgSO4) and filtered. The filtrate was heated under nitrogen at an external temperature of 80°-85° C. for 6 hours, allowed to stand at ambient temperature for 18 hours, heated at an external temperature of 80°-85° C. for a further 1.5 hours, then allowed to cool. The solvent was removed in vacuo, the residue was dissolved in dichloromethane (250 ml), and the solution was shaken vigorously for a few seconds with 5M aqueous sodium hydroxide solution (150 ml). The organic solution was separated, washed with water (2×150 ml), dried (MgSO4), and the solvent removed in vacuo. The residue was purified by flash chromatography over silica using 12.5-25% mixtures of ethyl acetate and petroleum ether (b.p. 60°-80° C.) as eluants. Appropriate fractions were combined, and the solvents removed in vacuo to leave 1-(5-methoxy-2,3-dihydrobenzo[b]thiophen-3-yl)-2-phenoxyethanone as a gum (4.5 g).

reactant | m-chloroperoxybenzoic acid | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | 1-(4-methoxyphenylthio)-4-phenoxybut-2-yne | 13.7 g | COC1=CC=C(C=C1)SCC#CCOC1=CC=CC=C1 | C17H16O2S
solvent | chloroform | 300 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 125 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(5-methoxy-2,3-dihydrobenzo[b]thiophen-3-yl)-2-phenoxyethanone | 4.5 g | COC1=CC2=C(SCC2C(COC2=CC=CC=C2)=O)C=C1 | C17H16O3S
